US08211885B2
2-(5-Fluoro-2-methyl-phenoxy)-1-phenyl-3-(piperazine-1-carbonyl)-1H-indole-5-carboxylic acid amide
A mixture of 4-[5-cyano-2-(5-fluoro-2-methyl-phenoxy)-1-phenyl-1H-indole-3-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester (70 mg, 0.126 mmol), acetamide (31.5 mg, 0.53 mmol) and palladium(II) chloride (2.2 mg, 13 μmol) in THF (4 ml) and water (1.4 ml) was stirred at room temperature for 30 h. After addition of water, the mixture was extracted with EA. The combined organic layers were dried over sodium sulfate and concentrated. The residue was dissolved in DCM (1 ml), TFA (0.3 ml) was added, and the mixture was stirred at room temperature for 1 h. The solvents were evaporated and the obtained solid was purified by preparative HPLC. The eluate was lyophilized overnight. The residue was dissolved in a small quantity of MOH, mixed with hydrochloric acid (0.1 M) and lyophilized overnight. 13.5 mg of the title compound were obtained in the form of the 2-(5-fluoro-2-methyl-phenoxy)-1-phenyl-3-(piperazine-1-carbonyl)-1H-indole-5-carboxylic acid amide hydrochloride.

reactant | 4-[5-cyano-2-(5-fluoro-2-methyl-phenoxy)-1-phenyl-1H-indole-3-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.126 mmol, 70 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(N(C2=CC=C(C=C12)C#N)C1=CC=CC=C1)OC1=C(C=CC(=C1)F)C | C32H31FN4O4
reactant | acetamide | 0.53 mmol, 31.5 mg | C(C)(=O)N | C2H5NO
reactant | water | 1.4 ml | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | palladium(II) chloride | 13 μmol, 2.2 mg | [Pd](Cl)Cl
product | 2-(5-Fluoro-2-methyl-phenoxy)-1-phenyl-3-(piperazine-1-carbonyl)-1H-indole-5-carboxylic acid amide | 13.5 mg | FC=1C=CC(=C(OC=2N(C3=CC=C(C=C3C2C(=O)N2CCNCC2)C(=O)N)C2=CC=CC=C2)C1)C | C27H25FN4O3
